US05387685
α-(3-Chloropropyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile
To a solution of 2.39 g of 3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile in 21 mL of dimethyl sulfoxide, under an argon atmosphere with stirring, is added 0.336 g of 60% sodium hydride in oil. This mixture is stirred for 1.5 hours. To the resulting solution is added 1.32 g of 1-bromo-3-chloropropane and this reaction mixture is stirred for 3 hours and is next poured into 100 mL of ice water. This mixture is twice extracted with diethyl ether and the combined organic extracts dried with magnesium sulfate. The organic solution is filtered, and concentrated in vacuo to give the desired compound as a golden oil.

reactant | 3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 2.39 g | COC=1C=C(C=CC1OC)C(C#N)SC1=CC=C(C=C1)C | C17H17NO2S
reactant | sodium hydride | 0.336 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 1.32 g | BrCCCCl | C3H6BrCl
solvent | dimethyl sulfoxide | 21 mL | CS(=O)C | C2H6OS
product | α-(3-Chloropropyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | ClCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C20H22ClNO2S
